US05432267
Preparation of 2-Benzyloxycarbonyl-1(benzyloxycarbonylmethyl)ethyl 3-O-(8-Benzoylaminooctanoyl)-2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside
In the same manner as in Example 8, Step 4, 2-benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside was once protected with an isopropylidene group and then reacted with 8-benzoylaminooctanoic acid, followed by removal of the isopropylidene group to obtain the titled compound as a colorless oily substance.

reactant | 2-benzyloxycarbonyl-1-(benzyloxycarbonylmethyl)ethyl 2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside | C(CCCCCCCCCCCCC)(=O)N[C@H]1[C@@H](OC(CC(=O)OCC2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)CO | C39H57NO10
reactant | 8-benzoylaminooctanoic acid | C(C1=CC=CC=C1)(=O)NCCCCCCCC(=O)O | C15H21NO3
product | 2-Benzyloxycarbonyl-1(benzyloxycarbonylmethyl)ethyl 3-O-(8-Benzoylaminooctanoyl)-2-deoxy-2-tetradecanoylamino-α-D-glucopyranoside | C(C1=CC=CC=C1)(=O)NCCCCCCCC(=O)O[C@@H]1[C@H]([C@@H](OC(CC(=O)OCC2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2)O[C@@H]([C@H]1O)CO)NC(CCCCCCCCCCCCC)=O | C54H76N2O12
